US07915270B2
1-(5-(4-Methylpyridin-2-yl)oxazol-2-yl)-7-phenylheptan-1-one
2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)-5-(4-methylpyridin-2-yl)oxazole. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (130 mg, 0.196 mmol) and 2-bromo-4-methylpyridine following General Procedure A. Flash chromatography (10% EtOAc/hexanes) yielded the title compound as a thick oil (41 mg, 59%): 1H NMR (CDCl3, 400 MHz) δ 8.48 (d, 1H, J=5 Hz), 7.63 (s, 1H), 7.50 (d, 1H, J=0.6 Hz), 7.29-7.25 (m, 2H), 7.18-7.15 (m, 3H), 7.05 (ddd, 1H, J=5.0, 1.5, 0.6 Hz), 4.86 (dd, 1H, J=7.3, 5.8 Hz), 2.59 (t, 2H, J=7.8 Hz), 2.41 (s, 3H), 1.93 (m, 2H), 1.61 (m, 2H), 1.36 (m, 4H), 0.91 (s, 9H), 0.11 (s, 3H), 0.01 (s, 3H); 13C NMR (CDCl3, 100 MHz) δ 165.5, 150.7, 149.6, 148.1, 147.2, 142.7, 128.2, 125.5, 125.0, 123.8, 119.9, 68.7, 36.4, 35.9, 31.4, 29.1, 25.7, 25.7, 25.1, 21.1, 18.2, −5.0, −5.2.

reactant | 2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)-5-(4-methylpyridin-2-yl)oxazole | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C1=NC=CC(=C1)C | C28H40N2O2Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.196 mmol, 130 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | 2-bromo-4-methylpyridine | BrC1=NC=CC(=C1)C | C6H6BrN
product | 1-(5-(4-Methylpyridin-2-yl)oxazol-2-yl)-7-phenylheptan-1-one | 41 mg, 59% | CC1=CC(=NC=C1)C1=CN=C(O1)C(CCCCCCC1=CC=CC=C1)=O | C22H24N2O2
